US08895313B2
2-[2-(1,3-Benzothiazol-2-yl)-5-nitrophenoxy]-N,N-dimethylethanamine
To a stirred mixture of 2-(2-hydroxy-4-nitrophenyl)benzothiazole (0.15 g, 0.55 mmol), triphenylphosphine (0.216 g, 0.825 mmol) and N,N-dimethylethanolamine (0.059 g, 0.66 mmol) in dry THF (10 ml) at 0° C. was added dropwise DIAD (0.167 g, 0.825 mmol). The reaction mixture was stirred at 0° C. for 0.5 h, then left to rise to room temperature overnight. The solvent was removed under reduced pressure and the residue was purified by flash chromatography (20:1 DCM/MeOH) to give the title compound (0.089 g, 47%) as a yellow solid.

reactant | 2-(2-hydroxy-4-nitrophenyl)benzothiazole | 0.55 mmol, 0.15 g | OC1=C(C=CC(=C1)[N+](=O)[O-])C=1SC2=C(N1)C=CC=C2 | C13H8N2O3S
reactant | triphenylphosphine | 0.825 mmol, 0.216 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N,N-dimethylethanolamine | 0.66 mmol, 0.059 g | CN(CCO)C | C4H11NO
reactant | DIAD | 0.825 mmol, 0.167 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-[2-(1,3-Benzothiazol-2-yl)-5-nitrophenoxy]-N,N-dimethylethanamine | 0.089 g, 47% | S1C(=NC2=C1C=CC=C2)C2=C(OCCN(C)C)C=C(C=C2)[N+](=O)[O-] | C17H17N3O3S
